US09340556B2
To a solution of 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydroquinoline-8-carboxamide (1.09 g, 3.22 mmol) in N,N-dimethylformamide (30 mL) was added sodium hydride (0.193 g, 4.83 mmol) and the mixture was stirred at room temperature for 1 h. Then the mixture of 1-(2-chloroethyl)pyrrolidine, Hydrochloride (0.548 g, 3.22 mmol) and triethylamine (0.494 mL, 3.54 mmol) in N,N-dimethylformamide (30.0 mL) was added in one portion. The resulting mixture was stirred at 50° C. for 3.5 h. Extra NaH (0.15 eq) was added, the mixture was stirred at 50° C. for another 0.5 h. The solvent was removed in vacuo, and the residue was partitioned between water (50 mL) and dichloromethane (50 mL), and extracted with DCM for three times. The combined organic phases were dried over sodium sulfate, filtered, and concentrated. The light yellow residue was purified by automatic silica gel column chromatography (Combiflash RF), eluting with [CH2Cl2/MeOH/NH4OH (80:20:2)]/CH2Cl2 (0-50%) to afford 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-N-(2-(pyrrolidin-1-yl)ethyl)-1,4-dihydroquinoline-8-carboxamide (0.3 g, 0.689 mmol, 21.38% yield) as a light brown oil. LCMS: (M+H)+: 436.3.

reactant | 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-1,4-dihydroquinoline-8-carboxamide | 3.22 mmol, 1.09 g | COC1=CC=C(COC2=CN(C3=C(C=CC=C3C2=O)C(=O)N)C)C=C1 | C19H18N2O4
reactant | sodium hydride | 4.83 mmol, 0.193 g | [H-].[Na+]
reactant | 1-(2-chloroethyl)pyrrolidine, Hydrochloride | 3.22 mmol, 0.548 g | Cl.ClCCN1CCCC1
reactant | triethylamine | 3.54 mmol, 0.494 mL | C(C)N(CC)CC | C6H15N
reactant | NaH | 0.15 eq | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30.0 mL | CN(C=O)C | C3H7NO
product | 3-((4-methoxybenzyl)oxy)-1-methyl-4-oxo-N-(2-(pyrrolidin-1-yl)ethyl)-1,4-dihydroquinoline-8-carboxamide | 0.689 mmol, 0.3 g, 21.38% yield | COC1=CC=C(COC2=CN(C3=C(C=CC=C3C2=O)C(=O)NCCN2CCCC2)C)C=C1 | C25H29N3O4
